US06355702B1
Synthesis of 2,8-Dimethyl-2,8-Nonanediol Diacrylate
Synthesis was carried out as in Example I except that 9.4 g (0.05 mol) of 2,8-dimethyl-2,8-nonanediol prepared as in Background Example 2 was substituted for the 2,7-dimethyl-2,7-octane diol.

reactant | 2,8-dimethyl-2,8-nonanediol | 0.05 mol, 9.4 g | CC(C)(CCCCCC(C)(O)C)O | C11H24O2
reactant | 2,7-dimethyl-2,7-octane diol | CC(C)(CCCCC(C)(O)C)O | C10H22O2
product | 2,8-Dimethyl-2,8-Nonanediol Diacrylate | C(C=C)(=O)OC(C)(CCCCCC(C)(OC(C=C)=O)C)C | C17H28O4
